US05270313
By reacting thiosalicylic acid with dimethyl sulfate in the presence of tetrabutylammonium bromide, there was obtained methyl 2-(methylthio)benzoate, melting point 64° C. Reduction with lithium aluminum hydride in dry tetrahydrofuran yielded 2-(methylthio)benzyl alcohol which was converted by reaction with SOCl2 into 2-(methylthio)benzyl chloride, boiling point 90° C./0.3 Torr. Reaction of diethyl malonate with 2-(methylthio)benzyl chloride yielded diethyl 2-(methylthio)benzyl-malonate, boiling point 130° C./0.05 Torr. Condensation with formamidine yielded 5-[o-(methylthio)benzyl]-6-hydroxy-4(3H)-pyrimidinone which was converted into 4,6-dichloro-5-[o-(methylthio)benzyl]pyrimidine, melting point 91° C. From 4,6-dichloro-5-(o-(methylthio)benzyl)pyrimidine and p-isopropylbenzenesulfonamide potassium, there was finally obtained N-[6-chloro-5-(o-(methylthio)benzyl)-4-pyrimidinyl]-p-isopropylbenzenesulfonamide, melting point 145°-146° C.

reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-(methylthio)benzyl chloride | CSC1=C(CCl)C=CC=C1 | C8H9ClS
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-(methylthio)benzyl-malonate | CSC1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C15H20O4S
